US07888352B2
To a solution of (5-bromo-3-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester (409 mg) in THF (20 mL) was added sodium hydride (68 mg) and the reaction was stirred at room temperature for 20 min. Then, iodomethane (0.11 mL) was added and the reaction was stirred at room temperature for 16 h. The reaction was quenched with water (30 mL) and extracted into ethylacetate (2×20 mL). The organic layers were washed with brine (2×40 mL), dried (MgSO4) and reduced in vacuo to give (5-bromo-3-methyl-pyridin-2-yl)-methyl-carbamic acid tert-butyl ester as a yellow oil.

reactant | (5-bromo-3-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 409 mg | C(C)(C)(C)OC(NC1=NC=C(C=C1C)Br)=O | C11H15BrN2O2
reactant | sodium hydride | 68 mg | [H-].[Na+]
reactant | iodomethane | 0.11 mL | IC | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (5-bromo-3-methyl-pyridin-2-yl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)C1=NC=C(C=C1C)Br)=O | C12H17BrN2O2
